US04544753
A solution of bromine (4.1 ml, 80 mmoles) in dichloromethane (6 ml) was added dropwise to a solution of 2,6-difluoroacetophenone (12.4 g, 80 mmoles) in anhydrous diethyl ether (100 ml). The reaction solution was evaporated and the resulting liquid was dissolved in tetrahydrofuran (150 ml) and methyl sulfide (9 ml, 120 mmoles) was added. The mixture was allowed to stand at room temperature for 6 days (approximately 144 hours). The crystals were filtered to yield 8.9 g (38%) of dimethyl-2,6-difluorophenacylsulfonium bromide. A mixture of the sulfonium salt (8.9 g) and isopropyl nitrate (6.4 ml, 60 mmoles) was stirred in dichloromethane (80 ml) for 7 days (approximately 168 hours) at room temperature. The volatiles were evaporated and the residue was dissolved in diethyl ether (250 ml). The organic solution was washed 4 times with 100 ml portions of water, saturated sodium chloride, dried (sodium sulfate), and evaporated to give 6.8 g of a solid. Recrystallization from carbon tetrachloride (250 ml) gave 4.9 g (23%) of crystals, melting point 138°-140° C.

reactant | bromine | 80 mmoles, 4.1 ml | BrBr | Br2
reactant | 2,6-difluoroacetophenone | 80 mmoles, 12.4 g | CC(=O)C1=C(C=CC=C1F)F | C8H6F2O
reactant | methyl sulfide | 120 mmoles, 9 ml | CSC | C2H6S
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | dimethyl-2,6-difluorophenacylsulfonium bromide | 8.9 g, 38% | [Br-].C[S+](CC(=O)C1=C(C=CC=C1F)F)C | InChI=1S/C10H11F2OS.BrH/c1-14(2)6-9(13)10-7(11)4-3-5-8(10)12;/h3-5H,6H2,1-2H3;1H/q+1;/p-1
